US08536160B2
7-(E)-Allyloxyiminoandrostane-3,17-dione (II-av)
The title compound II-av was prepared in 76% yield from 3,3:17,17-bis(ethylendioxy)-7-(E)-allyloxyiminoandrostane by the procedure described above for the preparation of 6-methyleneandrostane-3,17-dione (II-ac, Prepn. 13). The crude product was purified by flash chromatography (SiO2, n-hexane/EtOAc 8/2). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 5.98 (1H, m), 5.24 (1H, m), 5.14 (1H, m), 4.48 (2H, m), 2.40-1.10 (20H, m), 1.00 (3H, s), 0.81 (3H, s).

reactant | 17,17-bis(ethylendioxy)-7-(E)-allyloxyiminoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1/C(/CC3CCCC[C@]3(C)[C@H]1CC4)=N/OCC=C | C26H39NO5
reactant | 6-methyleneandrostane-3,17-dione | C=C1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O2
product | 7-(E)-Allyloxyiminoandrostane-3,17-dione | 76% yield | C(C=C)O\N=C/1\[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C22H31NO3
